US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(1-ethoxycarbonyl-ethyl) ester
The title compound was prepared from 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid and ethyl 2-bromopropionate according to the procedure of Example 24, Step 3 as a colorless oil; 1H NMR (300 MHz, CDCl3): δ 1.15-1.30 (complex m, 9H), 1.40 (brs, 9H), 1.52-1.69 (m, 6H), 2.47-2.58 (m, 1H), 2.58-2.70 (m, 1H), 3.05-3.16 (m, 1H), 3.42-3.54 (m, 1H), 4.05-4.30 (complexm, 5H), 4.77 (m, 1H), 5.19-5.30 (m, 2H), 5.49 (brs, 1H), 6.57-6.67 (m, 1H), 6.71-6.80 (m, 1H), 6.82-6.91 (m, 2H), 7.20-7.35 (m, 2H), 7.41 (brs, 1H); MS (ES) m/z (relative intensity): 722 (M+, 100).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid | C(C)(C)(C)OC(=O)N(C(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)CC(O)C1=CC(=CC=C1)Cl | C25H28ClNO9
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(1-ethoxycarbonyl-ethyl) ester | C(C)OC(=O)C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)OC(C)C(=O)OCC | C35H44ClNO13
